US06869967B2
To an ice-cooled solution of 3-chloro-4-hydroxyphenylacetic acid (10.0 g, 53.0 mmol) in ethanol was dropwise added thionyl chloride (3.9 ml, 53.5 mmol). The mixture was stirred at room temperature for 48 h, concentrated in vacuo and submitted to flash chromatography (graduated from toluene to 5% ethyl acetate in toluene eluent) to give 11.0 g of 3-chloro-4-hydroxyphenylacetic acid ethyl ester.

reactant | 3-chloro-4-hydroxyphenylacetic acid | 53.0 mmol, 10.0 g | ClC=1C=C(C=CC1O)CC(=O)O | C8H7ClO3
reactant | thionyl chloride | 53.5 mmol, 3.9 ml | S(=O)(Cl)Cl | Cl2OS
reactant | ethanol | C(C)O | C2H6O
product | 3-chloro-4-hydroxyphenylacetic acid ethyl ester | 11.0 g | C(C)OC(CC1=CC(=C(C=C1)O)Cl)=O | C10H11ClO3
